//Generated for; spectre
//Trying to find the gate cap of the WL transistor

simulator lang=spectre
global 0 




parameters capacity=64 pullDownWidth=5 writePorts=1 readPortsQB=2 \
    readPortsQ=2 readPorts=4 ws=16 per=5e-09 pfall=1e-12 prise=1e-12 \
    wdef=1.2e-07 ldef=6e-08 pvbp=1 pvdd=1 numBanks=1 cg=6.59722e-16 \
    cwl=1.09136e-16 NR=64 cbl=5.08303e-17 tdly=1.25e-09 twl=8.333333e-10 \
    lpg=7.5e-08 wpg=7.2e-07 lpd=6.5e-08 wpd=1.4e-07 lpu=6.5e-08 wpu=6.4e-07
include "../../../../template/ibm65/include_mm.scs"
include "../../../../template/ibm65/subN.scs"
include "../../../../template/ibm65/subP.scs"
include "../../../../template/ibm65/subPU.scs"
include "../../../../template/ibm65/subPD.scs"
include "../../../../template/ibm65/subPG.scs"
////Cell name: buf
subckt buf IN OUT VDD VSS
parameters wp2=8*wdef wp1=2*wdef wn2=4*wdef wn1=wdef l=ldef
MP1 (OUTB IN VDD VDD) P_TRANSISTOR width=wp1 length=l
MN1 (OUTB IN VSS VSS) N_TRANSISTOR width=wn1 length=l
MP2 (OUT OUTB VDD VDD) P_TRANSISTOR width=wp2 length=l
MN2 (OUT OUTB VSS VSS) N_TRANSISTOR width=wn2 length=l
ends buf

// Cell name: bitcell6TRegFile
// View name: schematic
subckt bitcell6TRegFile BL BLB VDDC VSSC WL
M3 (QB WL BLB VSSC) PG_TRANSISTOR width=wpg length=lpg 
M2 (Q WL BL VSSC) PG_TRANSISTOR width=wpg length=lpg 
M4 (QB Q VSSC VSSC) PD_TRANSISTOR width=wpd length=lpd 
M1 (Q QB VSSC VSSC) PD_TRANSISTOR width=wpd length=lpd 
M5 (QB Q VDDC VDDC) PU_TRANSISTOR width=wpu length=lpu 
M0 (Q QB VDDC VDDC) PU_TRANSISTOR width=wpu length=lpu
MRQ (midQ Q VSSC VSSC) N_TRANSISTOR width=pullDownWidth*wdef length=ldef m = readPortsQ
MRQx (VDDC VSSC midQ VSSC) N_TRANSISTOR width=pullDownWidth*wdef length=ldef
MRQB (midQB QB VSSC VSSC) N_TRANSISTOR width=pullDownWidth*wdef length=ldef m = readPortsQB
MRQBx (VDDC VSSC midQB VSSC) N_TRANSISTOR width=pullDownWidth*wdef length=ldef
writePortLoadQ (Q VSSC VSSC VSSC) PG_TRANSISTOR width=wpg length=lpg m = (writePorts - 1)
writePortLoadQB (QB VSSC VSSC VSSC) PG_TRANSISTOR width=wpg length=lpg  m = (writePorts - 1)
ends bitcell6TRegFile


// Cell name: triinv
// View name: schematic
subckt triinv IN OUT TRI_N TRI_P VDD VSS
parameters wp=4*wdef lp=ldef wn=2*wdef ln=ldef
M0 (OUT IN net19 VDD) P_TRANSISTOR width=wp length=lp 
MP (net19 TRI_P VDD VDD) P_TRANSISTOR width=wp length=lp 
M1 (OUT IN net31 VSS) N_TRANSISTOR width=wn length=ln 
MN (net31 TRI_N VSS VSS) N_TRANSISTOR width=wn length=ln 
ends triinv
// End of subcircuit definition.


// Cell name: nand2
// View name: schematic
subckt nand2 INbot INtop OUT VDD VSS
parameters wp=2*wdef lp=ldef wn=2*wdef ln=ldef
M2 (OUT INtop VDD VDD) P_TRANSISTOR width=wp length=lp 
MP (OUT INbot VDD VDD) P_TRANSISTOR width=wp length=lp 
M1 (OUT INtop net048 VSS) N_TRANSISTOR width=wn length=ln 
M3 (net048 INbot VSS VSS) N_TRANSISTOR width=wn length=ln 
ends nand2
// End of subcircuit definition.

//Not Needed for Reg File
// Cell name: CD
// View name: schematic
//subckt CD BL BLB CSEL CSELB NRDWR PCH RDWR VDD VSS
//parameters wncs=6*wdef lncs=ldef wpcs=6*wdef lpcs=ldef wpch=6*wdef lpch=ldef
//M3 (BLB CSEL NRDWR VSS) N_TRANSISTOR width=wncs length=lncs 
//M1 (BL CSEL RDWR VSS) N_TRANSISTOR width=wncs length=lncs 
//M4 (NRDWR CSELB BLB VDD) P_TRANSISTOR width=wpcs length=lpcs 
//M5 (BLB PCH VDD VDD) P_TRANSISTOR width=wpch length=lpch 
//M2 (RDWR CSELB BL VDD) P_TRANSISTOR width=wpcs length=lpcs 
//M0 (BL PCH VDD VDD) P_TRANSISTOR width=wpch length=lpch 
//M6 (BL PCH BLB VDD) P_TRANSISTOR width=wpch length=lpch
//ends CD
// End of subcircuit definition.

//Inverter subcircuit
subckt INV OUT IN VDD VSS
parameters i=1
MP (OUT IN VDD VDD) P_TRANSISTOR width=2*i*wdef length=ldef
MN (OUT IN VSS VSS) N_TRANSISTOR width=i*wdef length=ldef
ends INV

//generic inverter chain optimize later
subckt INVCHAIN IN OUT VDD VSS
I0 (X1 IN VDD VSS) INV i=1
I1 (X2 X1 VDD VSS) INV i=4
I2 (X3 X2 VDD VSS) INV i=16
I3 (OUT X3 VDD VSS) INV i=48
ends INVCHAIN
// DUT name: BitSlice_test

//NOT NEEDED FOR REG FILE
//subckt COL BL BLB WLA CSEL CSELB NRDWR RDWR PCH VDD VSS
//IBCA (BL BLB VDD VSS WLA) bitcell6T
//IBCD (BL BLB VDD VSS VSS) bitcell6T m=(NR - 1)
//ICDA (BL BLB CSEL CSELB NRDWR PCH RDWR VDD VSS) CD 
//CBL (BL 0) capacitor c=cbl*(NR+15)
//CBLB (BLB 0) capacitor c=cbl*(NR+15)
//ends COL

//BC and CD
//ICOL1 (BL BLB WLA CSEL CSELB NRDWR RDWR PCH VDD VSS) COL


//Not needed for Reg File
// Cap calculation for pch (assumes size of pch is 6x min, 3 devices)
//capPCH (PCH 0) capacitor c=numBanks/2*ws*cwl+wdef*cg*1e6*(ws-1)*6*3
// cap calculation for WEN (assumes write driver nmos sized 10x min, pmos min
//capWEN (WEN 0) capacitor c=numBanks/2*ws*cwl+wdef*cg*1e6*(ws-1)*22*2 

IWRD (DIN BL WEN WENB VDD VSS) triinv wp=wdef*30 lp=ldef wn=wdef*10 ln=ldef
IWRDB (db BLB WEN WENB VDD VSS) triinv wp=wdef*30 lp=ldef wn=wdef*10 ln=ldef
IBCA (BL BLB VDD VSS WLA) bitcell6TRegFile
IBCD (BL BLB VDD VSS VSS) bitcell6TRegFile m=(NR - 1)


//Input drivers for DUT
VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0
VBUF (VBUFFER 0) vsource dc=pvdd

VWLA (WLA 0) vsource type=pulse val0=0 val1=pvdd rise=prise fall=pfall width=twl period=per delay=tdly+5e-10

VDIN (DIN_IN 0) vsource dc=0
Idb (db DIN VDD VSS) INV i=1
VWEN (WEN_IN 0) vsource type=pulse val0=0 val1=pvdd rise=prise fall=pfall width=per/2.0 period=per delay=5e-10
VWENB (WEN_INB 0) vsource type=pulse val0=pvdd val1=0 rise=prise fall=pfall width=per/2.0 period=per delay=5e-10
IB7 (DIN_IN DIN VBUFFER VSS) buf
IWEN (WEN_IN WEN VBUFFER VSS) buf
IWENB (WEN_INB WENB VBUFFER VSS) buf

ic IBCA.Q=0 IBCD.Q=pvdd BL=0 BLB=0
myOption options pwr=all

simulatorOptions options reltol=1e-06 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-22 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="OUT/psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1e-08 errpreset=conservative start=0 step=1e-13 \
    write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub currents=all
 